US07495103B2
To a solution of 2-bromo-1-tert-butyl-4-nitrobenzene (2.13 g, 8.2 mmol) and Zn(CN)2 (770 mg, 6.56 mmol) in DMF (10 mL) was added Pd(PPh3)4 (474 mg, 0.41 mmol) under a nitrogen atmosphere. The mixture was heated in a sealed vessel at 205° C. for 5 h. After cooling to room temperature, the mixture was diluted with water and extracted with EtOAc twice. The combined organic layers were washed with brine and dried over MgSO4. After removal of solvent, the residue was purified by column chromatography (0-10% EtOAc-Hexane) to give 2-tert-butyl-5-nitrobenzonitrile (1.33 g, 80%). 1H NMR (400 MHz, CDCl3) δ 8.55 (d, J=2.3 Hz, 1H), 8.36 (dd, J=8.8, 2.2 Hz, 1H), 7.73 (d, J=8.9 Hz, 1H), 1.60 (s, 9H); HPLC ret. time 3.42 min, 10-100% CH3CN, 5 min gradient.

reactant | 2-bromo-1-tert-butyl-4-nitrobenzene | 8.2 mmol, 2.13 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])C(C)(C)C | C10H12BrNO2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | Zn(CN)2 | 6.56 mmol, 770 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.41 mmol, 474 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-tert-butyl-5-nitrobenzonitrile | 1.33 g, 80% | C(C)(C)(C)C1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C11H12N2O2
